US08431575B2
To a solution of 4-[6-cyclobutyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxy]-piperidine-1-carboxylic acid tert-butyl ester (0.35 mmol, 0.18 g) in DCM (1.0 mL) was added 4 N HCl in dioxane (1.0 mL) and the reaction was stirred for 30 min. The solvents were removed under reduced pressure and the residue was triturated with anhydrous ethyl ether and filtered to give 3-cyclobutyl-4-(4-cyclohexyloxy-phenyl)-6-(piperidin-4-yloxy)-pyridazine dihydrochloride (0.14 g).

reactant | 4-[6-cyclobutyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxy]-piperidine-1-carboxylic acid tert-butyl ester | 0.35 mmol, 0.18 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1N=NC(=C(C1)C1=CC=C(C=C1)OC1CCCCC1)C1CCC1 | C30H41N3O4
reactant | HCl | 4 N | Cl | ClH
solvent | DCM | 1.0 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | 3-cyclobutyl-4-(4-cyclohexyloxy-phenyl)-6-(piperidin-4-yloxy)-pyridazine dihydrochloride | 0.14 g | Cl.Cl.C1(CCC1)C=1N=NC(=CC1C1=CC=C(C=C1)OC1CCCCC1)OC1CCNCC1 | InChI=1S/C25H33N3O2.2ClH/c1-2-7-20(8-3-1)29-21-11-9-18(10-12-21)23-17-24(30-22-13-15-26-16-14-22)27-28-25(23)19-5-4-6-19;;/h9-12,17,19-20,22,26H,1-8,13-16H2;2*1H
